US06001856
Example Eight (R)-N-(5-(1.2-Dihydroxy-ethyl)-pyrdin-2-yl)-2,2-dimethylpropionamide.
A suspension of AD-Mix-B® (1.40 9) in water (5 ml) and t-butanol (5 ml) was cooled to 5° C. and N-(5-vinyl-pyridin-2-yl)-2,2-dimethylpropionamide (0.204 g, 1.0 mmol) was added. The mixture was stirred at 5° C. for 18 hours. The reaction mixture was then treated with sodium sulfite (3.0 g), stirred for 30 minutes and then extracted with dichloromethane.

reactant | t-butanol | 5 ml | C(C)(C)(C)O | C4H10O
reactant | N-(5-vinyl-pyridin-2-yl)-2,2-dimethylpropionamide | 1.0 mmol, 0.204 g | C(=C)C=1C=CC(=NC1)NC(C(C)(C)C)=O | C12H16N2O
reactant | sodium sulfite | 3.0 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 5 ml | O | H2O
product | (R)-N-(5-(1.2-Dihydroxy-ethyl)-pyrdin-2-yl)-2,2-dimethylpropionamide | O[C@@H](CO)C=1C=CC(=NC1)NC(C(C)(C)C)=O | C12H18N2O3
